US05410047
N,N-Bis-[4-(2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)benzyl]hydroxylamine
from 2,2,6,6-tetramethylpiperidin-4-yl 4-chloromethylbenzoate and hydroxylamine

reactant | 2,2,6,6-tetramethylpiperidin-4-yl 4-chloromethylbenzoate | ClCC1=CC=C(C(=O)OC2CC(NC(C2)(C)C)(C)C)C=C1 | C17H24ClNO2
reactant | hydroxylamine | NO | H3NO
product | N,N-Bis-[4-(2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)benzyl]hydroxylamine | CC1(NC(CC(C1)OC(=O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)OC2CC(NC(C2)(C)C)(C)C)C=C1)(C)C)C | C34H49N3O5
